US07534788B2
Step 2: 4-Chloro-2-hydroxy-5-methoxy-benzaldehyde
The above prepared 3-chloro-4-methoxy-phenol (2.379 g, 13.5 mmol, corrected for purity) was dissolved in 21 mL of trifluoroacetic acid and treated with hexamethylene tetramine (2.313 g, 1.25 eq.), and the mixture was then stirred at 85° C. over night. Cooling, pouring onto crashed ice, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, heptane/AcOiPr=82/18), followed by crystallization from heptane/AcOEt, produced finally 1.030 g of the title compound as yellow crystals.

reactant | 3-chloro-4-methoxy-phenol | 13.5 mmol, 2.379 g | ClC=1C=C(C=CC1OC)O | C7H7ClO2
reactant | hexamethylene tetramine | 2.313 g, 1.25 eq. | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 21 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Chloro-2-hydroxy-5-methoxy-benzaldehyde | 1.030 g | ClC1=CC(=C(C=O)C=C1OC)O | C8H7ClO3
